US04478977
Bromoacetaldehyde-diethyl-acetal (98.5 g, 0.5 m) and p-hydroxybenzaldehyde (76.4 g, 0.63 m) were dissolved in N-methylpyrrolidone (250 cm3) and heated at 120° for 12 hours. The reaction mixture was cooled, diluted with diethyl ether and the ether layer was extracted four times with 5% sodium hydroxide solution to remove excess of p-hydroxybenzaldehyde. The ether was removed and the product distilled under reduced pressure to give 115 g (97%) of p-formylphenoxy-acetaldehyde-diethyl-acetal, b. 139°-140°/1.5 mbs. Acetylbenzene-sulphonic acid (sodium salt, 40 g, 0.18 m) was dispersed in a mixture of methanol (400 cm3) and 10% aqueous sodium hydroxide (150 cm3).

reactant | Bromoacetaldehyde-diethyl-acetal | 98.5 g | C(C)OC(CBr)OCC | C6H13BrO2
reactant | p-hydroxybenzaldehyde | 76.4 g | OC1=CC=C(C=O)C=C1 | C7H6O2
solvent | N-methylpyrrolidone | 250 cm3 | CN1C(CCC1)=O | C5H9NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | p-formylphenoxy-acetaldehyde-diethyl-acetal | 115 g, 97% | C(C)OC(COC1=CC=C(C=C1)C=O)OCC | C13H18O4
